US05389641
16a) Ethyl 2-nitro-3-(2-oxobutyl)benzoate
A stirred mixture of ethyl 3-methyl-2-nitrobenzoate (0.96 g) and N,N-dimethylpropionamide diethyl acetal (2.3 g) was heated at 145° C. for 36 hours. The reaction mixture was dissolved in ethyl acetate. The solution was washed with dilute hydrochloric acid and then water, dried and concentrated to dryness. The residue was purified by column chromatography on silica gel to give a pale brown syrup (0.36 g, 33%).

reactant | ethyl 3-methyl-2-nitrobenzoate | 0.96 g | CC=1C(=C(C(=O)OCC)C=CC1)[N+](=O)[O-] | C10H11NO4
reactant | N,N-dimethylpropionamide diethyl acetal | 2.3 g | C(C)OC(CC)(N(C)C)OCC | C9H21NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-nitro-3-(2-oxobutyl)benzoate | 0.36 g, 33% | [N+](=O)([O-])C1=C(C(=O)OCC)C=CC=C1CC(CC)=O | C13H15NO5
